US06329400B1
A solution of methyl (2R,3R)-2-[(2E)-3-phenyl-2-propen-1-yl]-3-hydroxybutanoate (42.0 g, 179.5 mmol) in 400 mL of methanol is treated with 400 mg of 10% palladium on carbon. The resulting suspension is repeatedly evacuated and purged with a hydrogen balloon, then stirred under 1 atmosphere pressure of hydrogen gas for 16 h. The catalyst is filtered and the filtrate is concentrated in vacuo to provide methyl (2R,3R)-2-(3-phenyl-1-propyl)-3-hydroxybutanoate as an oil (42.2 g, 100% yield).

reactant | methyl (2R,3R)-2-[(2E)-3-phenyl-2-propen-1-yl]-3-hydroxybutanoate | 179.5 mmol, 42.0 g | C1(=CC=CC=C1)/C=C/C[C@@H](C(=O)OC)[C@@H](C)O | C14H18O3
solvent | methanol | 400 mL | CO | CH4O
catalyst | palladium on carbon | 400 mg | [Pd] | Pd
product | methyl (2R,3R)-2-(3-phenyl-1-propyl)-3-hydroxybutanoate | 42.2 g, 100% yield | C1(=CC=CC=C1)CCC[C@@H](C(=O)OC)[C@@H](C)O | C14H20O3
